US08304436B2
D3. Methyl 3-[3-(cyclopropylmethoxy)-4-(difluoronnethoxy)phenyl]-2,2-dimethyl-3-oxopropanoate
Prepared analogously as described for example D1 using methyl 2-methylproponate and 3-cyclopropylmethoxy-4-difluoromethoxybenzoyl chloride as starting compounds.

reactant | methyl 2-methylproponate | CC(C(=O)OC)C | C5H10O2
reactant | 3-cyclopropylmethoxy-4-difluoromethoxybenzoyl chloride | C1(CC1)COC=1C=C(C(=O)Cl)C=CC1OC(F)F | C12H11ClF2O3
product | Methyl 3-[3-(cyclopropylmethoxy)-4-(difluoronnethoxy)phenyl]-2,2-dimethyl-3-oxopropanoate | C1(CC1)COC=1C=C(C=CC1OC(F)F)C(C(C(=O)OC)(C)C)=O | C17H20F2O5
